US05008263
2,3-Dihydro-4-[2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-yl]-1H-[1,5]benzodiazepin-2-one
The procedure of Example 1 was followed using 1,2-diaminobenzene (86 mg, 0.76 mmol) and ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate (260 mg, 0.80 mmol). The crude product was purified by flash chromatography (eluting with ethyl acetate/methanol =6:1), followed by recrystallisation from acetone to give the title compound (40 mg, 14%) as a buff solid, m.p. 208°-210° C..

reactant | 1,2-diaminobenzene | 0.76 mmol, 86 mg | NC1=C(C=CC=C1)N | C6H8N2
reactant | ethyl 2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-oylacetate | 0.80 mmol, 260 mg | CC=1N(C2=C(C=NC=C2)N1)C1=NC=C(C=C1)C(=O)CC(=O)OCC | C17H16N4O3
product | 2,3-Dihydro-4-[2-(2-methylimidazo[4,5-c]pyrid-1-yl)pyrid-5-yl]-1H-[1,5]benzodiazepin-2-one | 40 mg, 14% | CC=1N(C2=C(C=NC=C2)N1)C1=NC=C(C=C1)C1=NC2=C(NC(C1)=O)C=CC=C2 | C21H16N6O
